* Z:\home\mainster\CODES_local\LTSpice_projects\diskret_op_eas_labor\eingangsdiff.asc
Q1 C- IN- N003 0 CA3096_pnp
Q2 C+ IN+ N004 0 CA3096_pnp
RE1 N002 N003 1.8k
RE2 N002 N004 1.8k
Q3 N007 N008 N009 0 CA3046
Q4 N005 N008 N011 0 CA3046
Rpos1 N010 N009 {(1-offs)*Roffs}
RE3 N009 N012 1k
RE4 N011 N012 1k
Rpos2 N011 N010 {offs*Roffs}
XU1 N001 vdc_single V={Vcc}
XU2 N012 vdc_single V={Vee}
R3 IN+ 0 100meg
XU3 N009 N012 jumperConfig close=1 R_open=100meg R_close=1u
XU4 N010 N012 jumperConfig close=1 R_open=100meg R_close=1u
XU5 N011 N012 jumperConfig close=1 R_open=100meg R_close=1u
XU6 N002 N003 jumperConfig close={NoRe} R_open=100meg R_close=1u
XU7 N002 N004 jumperConfig close={NoRe} R_open=100meg R_close=1u
XU8 0 0 jumperConfig close={EnMirr} R_open=100meg R_close=1u
V1 IN+ IN- SINE(0 50m {f0})
R§idv N006 N005 100e-6
V2 IN- 0 PULSE(0 {InOffs} 0 {10/f0} 10u {5/f0} {20/f0})
I1 N001 N002 {I0}
V3 N013 0 SINE(0 1 {10*f0})
XU9 N007 N008 mir sw3_mdb_sing Vt=.5 Vh=-.25 Ron=1m Roff=100meg Lser=10n Vser=.0
V4 mir 0 PULSE(0 1 0 10n 10n {20/f0} {40/f0})
R§Ic1 C- N007 100e-6
R§Ic2 C+ N005 100e-6
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
* PNP-\nDiff. stufe
* Stromspiegel
.model npnA npn (Is=9.7e-15 Bf=300)
.model pnpB pnp (Is=9.7e-15 Bf=300)
.param pnpdiff=1
+ I0 = 40u
+ Vcc = 10V
+ Vee = -10V
+ Roffs = 1k
+ offs = 0.5
+ f0 = 1k
+ InOffs = 3V
.tran 0 {40/f0} {1/(10*f0)}
.param val=0
+ NoRe = 1
+ EnMirr = 1
.lib EIT_sub/vdc_single.sub
.lib MDB_sub/jumper_setable.sub
.lib MDB_sub/switches_mdb.sub
.backanno
.end
