* Z:\home\mainster\CODES_local\LTSpice_projects\diskret_op_eas_labor\2.7.4.asc
Q9 c0 N004 N001 0 CA3096_pnp
Q10 c1 N004 N002 0 CA3096_pnp
Q11 N004 N004 N003 0 CA3096_pnp
RE11 V+ N003 1.2k
RE10 V+ N002 1.2k
Re9a V+ N001 33k
Re9b P001 N001 10k
Rref N004 V- 39k
Q2 C4 0 N006 0 CA3096_pnp
Q1 C3 IN- N005 0 CA3096_pnp
RE1 c0 N005 1.8k
RE2 c0 N006 1.8k
R克D1 c0 N005 {JD1}
R克D2 c0 N006 {JD2}
Q3 C3 N013 N015 0 CA3046
Q4 C4 N013 N017 0 CA3046
Rpos1 N016 N015 {(1-off)*Ros}
R克2 N015 V- {J2}
R克3 N017 V- {J3}
RE3 N015 V- 1k
RE4 N017 V- 1k
R克1 N013 C3 {J1}
Rpos2 N017 N016 {off*Ros}
R克4 N016 V- {J4}
V1 V+ 0 10
V2 V- 0 -10
V4 ein 0 SINE(0 {Ampl} {fin}) AC 1
R克10 V+ P001 {J10}
R1 IN- ein 5.6k
R克5 C4 N011 {J5}
Ccomp1 C6 P002 33p
Q5 C6 N014 V- 0 CA3046
Q6 C6 C4 N014 0 CA3046
RE5 N014 V- 22k
Rs1 P002 N011 1n
Q8 V+ N007 N009 0 CA3046
Q12 V+ c1 N007 0 CA3046
Q13 V- C6 N012 0 CA3096_pnp
RE6 N009 out 33
RE7 out N012 33
D1 c1 N008 1N4148
R克6 c1 C6 {J7}
D2 N008 N010 1N4148
D3 N010 C6 1N4148
R3 out IN- 10k
Q7 V+ C3 N013 0 CA3046
V3 fin 0 SINE(0 {10/5.6} {-fin})
V5 fin_105 0 SINE(0 1 {fin*1.05})
V6 fin_115 0 SINE(0 1 {fin*1.15})
C1 0 IN- {Cp}
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
* Stromquellen-\nBank
* PNP-\nDiff. stufe
* Stromspiegel
* freq*
.param J10 = CLOSE
.param JD1 = OPEN
.param JD2 = OPEN
.param J1 = CLOSE
.param J2 = OPEN
.param J3 = OPEN
.param J4 = OPEN
.param J5 = CLOSE
.param J7 = OPEN
.ac oct 50 1 10meg
* .step param off 0.7 0.999 0.1
* Darlington- Stufe
* Endstufe
.param open = 100meg
.param close = 1u
.param Ros = 1k
.param off = 0.5
.param fin = 213k
*.step param fin list 100k 105k 115k 200k
* .step param J10 list 1m 100meg
* PULSE(-1 1 0 1n 1n {1/(2*fin)} {1/fin})
.param Ampl =2 
.param Cp = 33p
;.step param Cp list 0p 33p
* .tran 0 {5/fin+2*16u} {5/fin}
.backanno
.end
