* Z:\home\mainster\CODES_local\LTSpice_projects\impedance\impedance.asc
R1 uc in 1k
V1 in 0 SINE(0 7.9 8k 0 0 0) AC 7.9
C1 uc out 18n
L1 out 0 20m
R2 out 0 2k
.tran 5m
.MEAS TRAN Vout_rms RMS V(out)*sqrt(2) 
+ TRIG V(in) VAL=1 TD=1u Fall 10
+ TARG V(in) VAL=1 TD=1u Fall 30
.MEAS TRAN Vuc_rms RMS V(uc) 
+ TRIG V(in) VAL=1 TD=1u Fall 10
+ TARG V(in) VAL=1 TD=1u Fall 30
.MEAS TRAN diff_rms PARAM Vuc_rms-Vout_rms
* .MEAS TRAN t2 V(Out_Osc) WHEN V(Out_Osc) = {Vdd*3/5} rise=10\n.MEAS TRAN t1 V(Out_Osc) WHEN V(Out_Osc) = {Vdd*3/5} rise=9\n.MEAS TRAN freq1 PARAM 1/(t2-t1)
* .MEAS TRAN res7 AVG V(out) \n+ TRIG V(in) VAL=1.5 TD=1.1u FALL=1 \n+ TARG V(in) VAL=1.5 TD=1.1u FALL=10
.MEAS TRAN Vout_avg ACG V(out) 
+ TRIG V(in) VAL=1 TD=1u Fall 10
+ TARG V(in) VAL=1 TD=1u Fall 30
.MEAS TRAN Vuc_avg AVG V(uc) 
+ TRIG V(in) VAL=1 TD=1u Fall 10
+ TARG V(in) VAL=1 TD=1u Fall 30
.MEAS TRAN diff_avg PARAM Vuc_avg-Vout_avg
.SPICE Error Log Command
.backanno
.end
