* Z:\home\mainster\CODES_local\LTSpice_projects\koblitz_EAS_klausuren\ss12_jfet_in_opamp_nosmallsig.asc
Q3 N018 N018 Vmin 0 Nx
R§I1 N015 N018 100e-6
R§I2 N014 N016 100e-6
R§I1_ N016 N020 100e-6
R§Idv B6 N016 100e-6
C1 B8 B6 15.4p Rser=1
Q8 Vmin B8 out 0 P12
J1 N015 in- cs pj_
J2 N014 in+ cs pj_
Q4 N020 N018 Vmin 0 Nx
Q6 B8 B6 Vmin 0 Nx
Q9 N007 bb e9 0 P9
Q10 N008 bb e10 0 P10
R6 e10 e9 596
Q11 N009 bb e10 0 P11
Q12 N010 bb Vplus 0 P12
R10 Vplus e10 25.6
R2 N017 Vmin {R2}
XU1 Vplus vdc_single V={Vplus}
XU2 Vmin vdc_single V={Vmin}
R§IR2 bb N017 100e-6
V1 in+ 0 SINE(0 1 {f0})
R4 N022 0 1
XU3 rnd vdc_single V={1/rnd}
R5 out in- 1k
R§Ic10 N008 bb 100e-6
XU7 rndu vdc_single V={1/rndu}
XU5 N017 Vmin N021 diff2comm rnd=1m
XU6 e10 bb N004 diff2comm rnd=1m
XU12 e10 bb N005 diff2comm rnd=1m
XU13 Vplus bb N006 diff2comm rnd=1m
XU14 out B8 N013 diff2comm rnd=1m
XU15 Vplus e10 N002 diff2comm rnd=1m
XU16 e10 e9 N001 diff2comm rnd=1m
R§Ic12 N010 out 100e-6
R§Ic11 N009 B8 100e-6
XU4 N018 Vmin N023 diff2commDC rnd=1m
XU17 in+ cs N012 diff2comm rnd=10m
XU18 in- cs N011 diff2comm rnd=10m
XU19 e9 bb N003 diff2comm rnd=1m
XU22 in- isoR0 Riso=100meg
XU20 in+ isoR0 Riso=100meg
XU23 B6 Vmin N019 diff2comm rnd=1m
R§I0 N007 cs 100e-6
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.jft
.param jfetin=1
+ Vplus = 5V
+ Vmin = -5V
+ f0 = 1k
+ Veb0 = .6V
+ R2 = 8.95k
.tran 0 {100/f0} {97/f0}
.model pj_ PJF (beta=.333m VT0=-2V lambda = .015)
.model P9 PNP (Is={Ic09/exp(Veb0/26m)} BF=200); VA=80V)
.model P10 PNP (Is={Ic010/exp(Veb0/26m)} BF=200 )
.model P11 PNP (Is={Ic011/exp(Veb0/26m)} BF=200 )
.model P12 PNP (Is={Ic012/exp(Veb0/26m)} BF=200 )
.model Nx NPN (Is={Ic03/exp(Veb0/26m)} BF=200 VA=80V Cjc=1p)
.param rnd=10u
.param rndu=.1u
.param IcAp=1
+ Ic09 = 100uA
+ Ic010 = 1mA
+ Ic011 = 1mA
+ Ic012 = {8mA/1}
+ Ic03 = {Ic09/2}
.op
.lib EIT_sub/vdc_single.sub
.lib MDB_sub/diff2comm.sub
.lib MDB_sub/isoR0.sub
.backanno
.end
