* Z:\home\mainster\CODES_local\LTSpice_projects\klausuren_Koblitz\ws08_09.asc
M1 N009 N009 N013 N013 NMOS1
M2 N010 N009 N014 N014 NMOS2
R1 N013 N017 8k
R2 N014 0 4k
R3 0 N017 0.1
I1 0 N009 50µ
I2 0 N017 PULSE(0 100m 0 100m)
V1 N007 0 10
R4 N007 N010 1
Q5 N001 N002 E1 0 NPNx
R5 E1 N004 1k
R6 Vin N002 50k
R7 C2 N006 {R3}
Q2 C2 0 N004 0 PNPx
V2 N006 0 -5V
V3 N001 0 5
Q3 N015 b1 0 0 NPNx
I3 0 N015 1m
R8 N015 b1 10k
M3 out N021 0 0 NMOS1a
M4 out out 0 0 NMOS2a
I4 0 out 100µ
V5 in 0 10
C1 out N021 7p
C2 N021 in 10n
R9 out N021 10meg
V7 N023 Q1e_a 0.7
V8 Q1C_b Q1e_a 0.2
XU1 Q1C Q1e N022 Q1e crtl_ii F=200
R10 Q1e_a N027 1k
V12 Q1C_b 0 5
R13 Q1e N024 1k
V15 N026 0 -5 Rser=1
R14 N026 VC2_a 2k
V16 Q1C 0 5 Rser=1
R12 ib 0 50k
R15 N023 Vin 50k
V17 Vin 0 1
XU2 VC2_a N024 N025 N024 crtl_ii F=200
V13 N028 0 -5
R16 N028 VC2_b 2k
V14 0 P001 0.7
XU3 VC2_b N027 P001 N027 crtl_ii F=100
D1 ib N022 1N4148
D2 N025 0 1N4148
V4 N012 Ve1_c 0.7
R11 N012 Vin 50k
V_IC1 Ve1_c 0 4.8
R17 Ve1_c N018 1k
V11 N020 0 {-5+0.2}
R§IC2 N020 N018 2k
D3 N018 0 1N4148
V6 N003 Ve2_c 0.7
R18 N003 Vin 50k
V_IC2 Ve2_c 0 4.8
R19 Ve2_c N005 1k
V9 N008 0 {-5+0.2}
R§IC1 N008 N005 2k
V10 N005 0 0.6
D4 N019 0 1N4148
I5 N011 N016 1m
R20 N016 N019 1
V_IC3 N011 0 4.8
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.mos
.model nmos1 nmos(Kp=1.25m VT0=1.5)
.model nmos2 nmos(Kp=2.5m VT0=1.5)
.param R3=2k
;.step param R3 list 2k 1T
.dc I5 -1m 1m 10u
.model nmos1a nmos (Kp={2*3m} VT0=1.5)
.model nmos2a nmos (Kp={2*300u} VT0=1.5)
.model npnx npn (bf=200 Is={2m/exp(0.7/26m)})
.model pnpx pnp (bf=200 Is={2m/exp(0.7/26m)})
.lib EIT_sub\controlled_sources.sub
.backanno
.end
