* Z:\media\data\CODES\LTSpice_projects\messtechnik\Klausur_SS_2008_1.asc
L1 N001 A {L0+dL}
L2 A 0 {L0-dL}
L0a N001 B {L0}
L0b B 0 {L0}
XU1 N002 N004 N003 opamp Aol=100K GBW=10Meg
R1 N002 B 1k
R3 N004 A 1k
R4 0 N004 100k
R2 N002 N003 100k
V2 N001 0 SINE(0 10 1k)
.param L0=1mH
.param dL=1u
.param f=1k
.tran 10m
.lib opamp.sub
.backanno
.end
