* Z:\home\mainster\CODES_local\LTSpice_projects\noise_snr\noise_rlc.asc
V1 N001 0 SINE(0 10m 10k) AC 1
R2 N001 c+ {R}
C1 c+ c- {C}
L1 c- 0 {L}
.noise V(c+,c-) V1 oct 100 10 1meg
.temp = 20
.param noise = 1
+ R = 1k
+ L = 100u
+ C = 10n
.backanno
.end
