* Z:\media\data\CODES\LTspiceWorkspace\LTspice_projects\op_diskret\Draft1.asc
R1 a 0 {RL}
C1 e 0 {C6}
L1 e a {L2}
V1 N001 0 0 AC 1
R2 N001 e .10
E1 al 0 e 0 laplace=(RL+s*L2)/(1+s**2*L2*C6+s*RL*C6)
.param filt=1
+ RL = 13k
+ L2 = 47u
+ C6 = 470p
.ac dec 100 1meg 1e9
.step param C6 list 470p 1e-20
.backanno
.end
