*$
* PART NUMBER:NJM084
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2005
.Subckt NJM084 OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 V- 
+ +IN4 -IN4 OUT4
X_U1     +IN1 -IN1 V+ V- OUT1 NJM084_S
X_U2     +IN2 -IN2 V+ V- OUT2 NJM084_S
X_U3     +IN3 -IN3 V+ V- OUT3 NJM084_S
X_U4     +IN4 -IN4 V+ V- OUT4 NJM084_S
.ends  NJM084
.subckt NJM084_S  1 2 3 4 5
  c1   11 12 2.8868E-12
  c2    6  7 10.000E-12
  css  10 99 1.0000E-30
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 50.810E6 -1E3 1E3 51E6 -51E6
  ga    6  0 11 12 157.08E-6
  gcm   0  6 10 99 20.095E-9
  iss   3 10 dc 130.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx1
  j2   12  1 10 jx2
  r2    6  9 100.00E3
  rd1   4 11 6.3662E3
  rd2   4 12 6.3662E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8000E3
  rss  10 99 1.5385E6
  vb    9  0 dc 0
  vc    3 53 dc 2.2147
  ve   54  4 dc 2.2147
  vlim  7  8 dc 0
  vlp  91  0 dc .8
  vln   0 92 dc .8
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=8.7500E-12 Beta=189.80E-6 Vto=-.9975)
.model jx2 PJF(Is=6.2500E-12 Beta=189.80E-6 Vto=-1.002500)
.ends
*$