*$
*PART NUMBER: NJM2120
*MANUFACTURER: NEW JAPAN RADIO
*OPAMP WITH SWITCH
*The NJM2120 is a dual operational amplifier of 2-INPUT
*and 1=OUTPUT with analog switch.This model including analog
*switch model.
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2005
.Subckt NJM2120 SW -IN1 +IN1 V- +IN2 -IN2 OUT V+
X_U1     +IN1 -IN1 V+1 V- OUT1 NJM2120_S
X_U2     +IN2 -IN2 V+2 V- OUT2 NJM2120_S
R_RCC        V+ VCC 1m
R_RCC2       Vcc 0  100MEG
R_R38        V+1 0  1MEG  
S_S6         out2 VCH2 N08350 0 _S6
RS_S6        N08350 0 1G
.MODEL       _S6 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
S_S5         out1 VCH1 N08350 0 _S5
RS_S5        N08350 0 1G
.MODEL       _S5 VSWITCH Roff=1e6 Ron=1.0 Voff=1.0V Von=0.0V
R_R33         0 SW  100MEG    
R_R39         VCH1 0  1.4k  
E_E2         N08350 0 VALUE { IF(V(SW)>V(Vcc)-0.7,0,1) }
R_R40         VCH2 0  1.4k  
S_S3         V+ V+2 N08350 0 _S3
RS_S3        N08350 0 1G
.MODEL       _S3 VSWITCH Roff=100e6 Ron=1.0 Voff=0.0V Von=1.0V
R_R5         N08350 0  1MEG  
E_ABM2       OUT 0 VALUE { ( V(vch1)+V(vch2) ) /1.0  }
S_S4         V+ V+1 N08350 0 _S4
RS_S4        N08350 0 1G
.MODEL        _S4 VSWITCH Roff=100e6 Ron=1.0 Voff=1 Von=0
R_R37         V+2 0  1MEG
.ends njm2120
.subckt njm2120_S  1 2 3 4 5
  c1   11 12 3.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 2.8673E6 -1E3 1E3 2E6 -2E6
  ga    6  0 11 12 1.3229E-3
  gcm   0  6 10 99 126.29E-9
  iee   3 10 dc 66.258E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 791.82
  rc2   4 12 791.82
  re1  13 10 8.0258
  re2  14 10 8.0258
  ree  10 99 3.0185E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8072E3
  vb    9  0 dc 0
  vc    3 53 dc 1.7979
  ve   54  4 dc 1.7979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=184.36)
.model qx2 PNP(Is=823.2200E-18 Bf=417.72)
.ends
*$